US05968967
3-(4-t-Butylphenyl)-1-(4-cyanophenyl)-4-ethoxycarbonyl-2-methyl-2H-pyrazol-5-one
A mixture of 73.19 g of ethyl 3-(4-t-butylphenyl)-3-chloro-2-ethoxycarbonyl-acrylate, 33.6 g of 1-(4-cyanophenyl)-2-methyl-hydrazine, 44.3 g of diisopropylethylamine and 500 ml of 1-propanol was refluxed under heating for 7 days. The reaction mixture was evaporated under reduced pressure. After addition of 1N hydrochloric acid, the resulting residue was extracted with chloroform. The extract was washed with 1N hydrochloric acid and saturated aqueous sodium chloride successively and dried over anhydrous sodium sulfate, and the solvent was removed by evaporation. The residue was recrystallized in ethyl acetate to give 34.9 g of the title compound as colorless crystals.

reactant | ethyl 3-(4-t-butylphenyl)-3-chloro-2-ethoxycarbonyl-acrylate | 73.19 g | C(C)(C)(C)C1=CC=C(C=C1)C(=C(C(=O)OCC)C(=O)OCC)Cl | C18H23ClO4
reactant | 1-(4-cyanophenyl)-2-methyl-hydrazine | 33.6 g | C(#N)C1=CC=C(C=C1)NNC | C8H9N3
reactant | diisopropylethylamine | 44.3 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1-propanol | 500 ml | C(CC)O | C3H8O
product | 3-(4-t-Butylphenyl)-1-(4-cyanophenyl)-4-ethoxycarbonyl-2-methyl-2H-pyrazol-5-one | 34.9 g | C(C)(C)(C)C1=CC=C(C=C1)C=1N(N(C(C1C(=O)OCC)=O)C1=CC=C(C=C1)C#N)C | C24H25N3O3
